US09302989B2
N-[trans-3-(benzylcarbamoyl)cyclobutyl]-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 1C, substituting benzylamine for 3-phenylpropan-1-amine and trans-3-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)cyclobutanecarboxylic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.56 (s, 1H), 8.47 (d, J=5.0 Hz, 1H), 8.26 (t, J=5.9 Hz, 1H), 7.39 (d, J=5.1 Hz, 1H), 7.36-7.28 (m, 2H), 7.27-7.20 (m, 3H), 6.60 (d, J=7.6 Hz, 1H), 4.65-4.59 (m, 4H), 4.45-4.29 (m, 1H), 4.28 (d, J=5.9 Hz, 2H), 2.96-2.84 (m, 1H), 2.41-2.29 (m, 2H), 2.30-2.15 (m, 2H); MS (ESI(+)) m/e 351 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | trans-3-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)cyclobutanecarboxylic acid | C1N(CC=2C=NC=CC21)C(=O)N[C@@H]2C[C@H](C2)C(=O)O | C13H15N3O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-[trans-3-(benzylcarbamoyl)cyclobutyl]-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | C(C1=CC=CC=C1)NC(=O)[C@@H]1C[C@H](C1)NC(=O)N1CC=2C=NC=CC2C1 | C20H22N4O2
